US06248766B1
[(2-Diphenylmethylthio-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetic Acid
Using ethyl[(2-mercapto-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetate and diphenylmethane bromide, the procedure of Example 21 was otherwise repeated to synthesize the title compound. Yield 61%.

reactant | ethyl[(2-mercapto-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetate | C(C)OC(COC=1C=2CC3=C(N=C(S3)S)C2C=CC1)=O | C14H13NO3S2
reactant | diphenylmethane bromide | [Br-].C1(=CC=CC=C1)CC1=CC=CC=C1
product | [(2-Diphenylmethylthio-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetic Acid | Yield 61% | C1(=CC=CC=C1)C(SC=1SC2=C(N1)C=1C=CC=C(C1C2)OCC(=O)O)C2=CC=CC=C2 | C25H19NO3S2
